US07678787B2
Step A. 2,2′,6′-Trimethyl-biphenyl-4-carboxylic acid methyl ester
2,6-Dimethyl boronic acid (13.7 g, 91 mmol) and 3-methyl benzoic acid methyl ester (20.9 g, 91 mmol) were dissolved in toluene (425 mL). Then ethanol (250 mL) and water (250 mL) were added followed by sodium carbonate (38.7 g, 365 mmol). The system was purged with nitrogen and then tetrakis triphenylphospine palladium(0) catalyst (10.5 g, 9 mmol) was added. The mixture was heated under nitrogen for 21 hours and filtered through celite. The cake was washed with a large amount of ethyl acetate, the combined filtrate was washed with water and brine, dried over anhydrous magnesium sulfate, and concentrated to give a solid. Flash chromatography of the residue over silica gel Merck-60 using a gradient of 0-20% ethyl acetate in hexane as the eluant, gave the title compound as a white solid (19.2 g, 83%).

reactant | 3-methyl benzoic acid methyl ester | 91 mmol, 20.9 g | COC(C1=CC(=CC=C1)C)=O | C9H10O2
reactant | ethanol | 250 mL | C(C)O | C2H6O
reactant | water | 250 mL | O | H2O
reactant | sodium carbonate | 365 mmol, 38.7 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 425 mL | C1(=CC=CC=C1)C | C7H8
solvent | hexane | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2,2′,6′-Trimethyl-biphenyl-4-carboxylic acid methyl ester | 19.2 g, 83% | COC(=O)C1=CC(=C(C=C1)C1=C(C=CC=C1C)C)C | C17H18O2
